US07790756B2
To a stirring solution of benzyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (0.991 g, 2.52 mmol, 1.00 eq) in THF (10 ml) and H2O (2.5 ml) was added NaIO4 (1.62 g, 7.56 mmol, 3.00 eq). The resulting suspension was stirred at 25° C. for 30 min and then treated with 3M HCl (1.68 ml, 5.04 mmol, 2.0 eq). The mixture was stirred for 2.5 h. The supernatant was decanted away from the solids, rinsing forward with THF. The combined organic phases were washed with brine (2×), dried (MgSO4) and concentrated in vacuo to give crude 2-(benzyloxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid (0.640 g, 82% yield) as a foam which was used as is in the next reaction. 1H NMR (400 MHz, DMSO-d6) δ 7.68-7.58 (m, 2H), 7.45-7.29 (m, 6H), 7.17 (m, 1H), 5.13 (s, 2H), 4.62-4.56 (brm, 2H), 3.65 (brs, 2H), 2.86 (t, 2H, J=5.60 Hz); MS (ESI) m/z: 312.0 (M+H+).

reactant | benzyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 2.52 mmol, 0.991 g, 1.00 eq | CC1(OB(OC1(C)C)C=1C=C2CCN(CC2=CC1)C(=O)OCC1=CC=CC=C1)C | C23H28BNO4
reactant | HCl | 5.04 mmol, 3M, 1.68 ml, 2.0 eq | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 2.5 ml | O | H2O
product | 2-(benzyloxycarbonyl)-1,2,3,4-tetrahydroisoquinolin-6-ylboronic acid | 0.640 g, 82% yield | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=C(C=C2CC1)B(O)O | C17H18BNO4
